US04120693
To a solution of 5 parts of cis-1,2-cyclohexane dicarboxylic anhydride in 75 parts of glacial acetic acid was added 4.8 parts of 4-amino-3-fluorobenzonitrile in one portion. The mixture was refluxed for 4 hours, poured over 200 parts of ice and filtered. The crude crystalline product was recrystallized from methanol to yield 4.4 parts of beige 4-(1,3-dioxo-2,3,3a,4,5,6,7,7a-octahydro-1H-isoindol-2-yl)-3-fluorobenzonitrile melting 120°-123°.

reactant | cis-1,2-cyclohexane dicarboxylic anhydride | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | 4-amino-3-fluorobenzonitrile | NC1=C(C=C(C#N)C=C1)F | C7H5FN2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(1,3-dioxo-2,3,3a,4,5,6,7,7a-octahydro-1H-isoindol-2-yl)-3-fluorobenzonitrile | O=C1N(C(C2CCCCC12)=O)C1=C(C=C(C#N)C=C1)F | C15H13FN2O2
